US07812040B2
2-Methoxy-6-chloro-4-(pyrrolidin-1-ylmethyl)phenol.
NaB(OAc)3H (12.5 g, 0.098 mol) was added in portions for 15 min to a mixture of pyrrolidine (5.41 mL, 0.087 mol) and 2-methoxy-5-chloro-4-hydroxybenzaldehyde (12.5 g, 0.089 mol) in CH2Cl2 (100 mL) under vigorous stirring and cooling with an ice bath in an atmosphere of argon Ar. The mixture was stirred for 20 h and cooled with an ice bath. Concentrated HCl (18 mL) was added. The organic layer was separated and discarded. The aqueous one was alkalized with 10 N NaOH to pH 9 (30 mL) and extracted with chloroform (2×100 mL). The combined extracts were dried with Na2SO4, and evaporated to give compound (5.1 g, 75%) was obtained as white crystals. LCMS-data: 242.0 (M+H)+, (calculated for C12H16NOCl 241.5). 1H NMR (400 MHz)-data (DMSO-d6, J, Hz): 9.18 (br s, 1H, OH); 6.83 (s, 2H, ArH); 3.79 (s, 3H, CH3); 3.44 (s, 2H, CH2Ar); 2.36-2.44 (m, 4H, CH2CH2CH2CH2,); 1.65-1.72 (m, 4H, CH2CH2CH2CH2,).

reactant | NaB(OAc)3H | 0.098 mol, 12.5 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | pyrrolidine | 0.087 mol, 5.41 mL | N1CCCC1 | C4H9N
reactant | 2-methoxy-5-chloro-4-hydroxybenzaldehyde | 0.089 mol, 12.5 g | COC1=C(C=O)C=C(C(=C1)O)Cl | C8H7ClO3
reactant | HCl | 18 mL | Cl | ClH
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-Methoxy-6-chloro-4-(pyrrolidin-1-ylmethyl)phenol | 5.1 g, 75% | COC1=C(C(=CC(=C1)CN1CCCC1)Cl)O | C12H16ClNO2
